US08227462B2
4-Methyl-5-[2-(1-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine
Powdered sodium hydroxide (5.86 g) is added to a solution of N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine (13 g, prepared as described by S. Wang et al J. Med. Chem. 2004, 47, 1662-1675.) and 1-methyl-cyclopropanecarboxamidine hydrochloride (7.2 g, prepared as described in EP0227415) in 2-methoxyethanol (98 ml) and the mixture heated at 125° C. for 1 hour with stirring. The reaction mixture is cooled, water is added, and the title compound isolated by filtration. ESI-MS: M+H 247 and M−H 245.

reactant | sodium hydroxide | 5.86 g | [OH-].[Na+]
reactant | N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine | 13 g | CN(C=CC(=O)C1=C(N=C(S1)N=CN(C)C)C)C | C12H18N4OS
reactant | 1-methyl-cyclopropanecarboxamidine hydrochloride | 7.2 g | Cl.CC1(CC1)C(=N)N
reactant | water | O | H2O
solvent | 2-methoxyethanol | 98 ml | COCCO | C3H8O2
product | 4-Methyl-5-[2-(1-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine | CC=1N=C(SC1C1=NC(=NC=C1)C1(CC1)C)N | C12H14N4S
